US06046195
(6S,5R)-7-(tert-Butoxycarbonyl)-6-phenyl-3-(trimethylstannyl)-7-aza-1-oxa-spiro[4.5]dec-3-ene
To a degassed solution of (6S,5R)-7-(tert-butoxycarbonyl)-6-phenyl-3-(trifluoromethylsulphonyloxy)-7-aza-1-oxa-spiro[4.5]dec-3-ene (0.482 g, 1.04 mmol; Desc.5), lithium chloride (0.264 g, 6.25 mmol), lithium carbonate (0.076 g) and hexamethyl distannane (0.96 g, 2.9 mmol) in THF (10 ml) was added triphenylphosphine palladium (0) (0.06 g). The solution was degassed and then heated at 60° C. for 5 hours under nitrogen. Water (20 ml) and ethyl acetate (20 ml) were added and the dried organic phase was purified by chromatography on silica gel (eluting with hexane containing increasing proportions of ethyl acetate between 0% to 5%. Evaporation of the fractions gave the title compound as a crystalline solid. 1H NMR (360 MHz, CDCl3) δ 7.25 (2H, d, J 7.3 Hz), 7.1-7.0 (3H, m), 5.83 (1H, t, J 2.5 Hz), 4.78 (1H, s), 4.48 and 4.02 (2H, dd, J 12.9 Hz and 2.3 Hz), 3.96 (1H, dd, J 6.16 Hz and 13.4 Hz), 2.95 (1H, td, J 13.3 Hz and 4.5 Hz), 1.84 (1H, m), 1.68 (1H, m), 1.60 (2H, m), 1.19 (9H, s), 0 (6H, s).

reactant | (6S,5R)-7-(tert-butoxycarbonyl)-6-phenyl-3-(trifluoromethylsulphonyloxy)-7-aza-1-oxa-spiro[4.5]dec-3-ene | 1.04 mmol, 0.482 g | C(C)(C)(C)OC(=O)N1[C@H]([C@]2(C=C(CO2)OS(=O)(=O)C(F)(F)F)CCC1)C1=CC=CC=C1 | C20H24F3NO6S
reactant | lithium chloride | 6.25 mmol, 0.264 g | [Cl-].[Li+]
reactant | lithium carbonate | 0.076 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | hexamethyl distannane | 2.9 mmol, 0.96 g | C[Sn]([Sn](C)(C)C)(C)C
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | triphenylphosphine palladium (0) | 0.06 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (6S,5R)-7-(tert-Butoxycarbonyl)-6-phenyl-3-(trimethylstannyl)-7-aza-1-oxa-spiro[4.5]dec-3-ene | C(C)(C)(C)OC(=O)N1[C@H]([C@]2(C=C(CO2)[Sn](C)(C)C)CCC1)C1=CC=CC=C1 | InChI=1S/C19H24NO3.3CH3.Sn/c1-18(2,3)23-17(21)20-13-7-11-19(12-8-14-22-19)16(20)15-9-5-4-6-10-15;;;;/h4-6,9-10,12,16H,7,11,13-14H2,1-3H3;3*1H3;/t16-,19+;;;;/m0..../s1
